* C:\Users\User\Documents\Obsidian_Vault_Personal\Scripts\LTSPICE\Draft1.asc
V1 A 0 PWL(0 0 0.1 8 100001u 0 0.2 8 200001u 0 0.3 8)
R1 A Vgs 10k
M1 Vgs Vgs 0 0 Test1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\User\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0.3
.MODEL Test1 NMOS (LEVEL=1 CBD=0.5p CBS=0.5p CGDO=0.1p CGSO=0.1p GAMMA=.85
+ KP=333u L=10E-6 LAMBDA=0.029 PHI=.9 VTO=0.55 W=20E-6)
.backanno
.end
